US05681838
Methyl (3-(2-aminoethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride
0.9 ml (12 mmol) of thionyl chloride are added dropwise, at 0° C., to 4.1 g (10 mmol) of (1-(2-tertbutoxycarbonylaminoethyl)-3-(methoxycarbonylphenylmethyl)ureido)acetic acid in 50 ml of methanol. The mixture is allowed to warm to room temperature and then stirred further overnight, followed by filtering off with suction and drying.

reactant | thionyl chloride | 12 mmol, 0.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (1-(2-tertbutoxycarbonylaminoethyl)-3-(methoxycarbonylphenylmethyl)ureido)acetic acid | 10 mmol, 4.1 g | C(C)(C)(C)OC(=O)NCCN(C(=O)NC(C1=CC=CC=C1)C(=O)OC)CC(=O)O | C19H27N3O7
solvent | methanol | 50 ml | CO | CH4O
product | Methyl (3-(2-aminoethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride | Cl.NCCN1C(N(C(C1)=O)C(C(=O)OC)C1=CC=CC=C1)=O | InChI=1S/C14H17N3O4.ClH/c1-21-13(19)12(10-5-3-2-4-6-10)17-11(18)9-16(8-7-15)14(17)20;/h2-6,12H,7-9,15H2,1H3;1H
